US07432266B2
A mixture of 3-ethyl-6-{1-[4-(methylsulfonyl)phenyl]-1H-pyrazol-5-yl}-1H-indazole (50 mg, 0.14 mmol), tetrahydrofuran (2 mL), triphenylphospine (71.6 mg, 0.27 mmol), and (3S)-tetrahydrofuran-3-ol (21.8 μL, 0.27 mmol) was stirred at room temperature, and diisopropyl azodicarboxylate (53.7 μL, 0.27 mmol) was added. The resulting mixture was stirred at room temperature for 16 hours. The crude product was then absorbed onto silica gel and isolated by flash chromatography using a hexane:ethyl acetate (1:1) methanol gradient (0-10%) over 10 minutes (20 mL/min flow rate) to provide 40 mg (63%) of Isopropyl 3-ethyl-6-{1-[4-(methylsulfonyl)phenyl]-1H-pyrazol-5-yl}-1H-indazole-1-carboxylate. LC/MS (EI) tR 2.27 (Method C), m/z 453.1 (M++1), 1H NMR (CDCl3) δ 1.4 (m, 9H); 2.9 (m, 2H); 3.0 (s, 3H); 5.2 (m, 1H); 6.7 (s, 1H); 7.1 (d, 1H); 7.5 (d, 2H); 7.6 (d, 1H); 7.7 (d, 2H); 7.8 (s, 1H); 8.1 (m, 1H).

reactant | 3-ethyl-6-{1-[4-(methylsulfonyl)phenyl]-1H-pyrazol-5-yl}-1H-indazole | 0.14 mmol, 50 mg | C(C)C1=NNC2=CC(=CC=C12)C1=CC=NN1C1=CC=C(C=C1)S(=O)(=O)C | C19H18N4O2S
reactant | triphenylphospine | 0.27 mmol, 71.6 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (3S)-tetrahydrofuran-3-ol | 0.27 mmol, 21.8 μL | O1C[C@H](CC1)O | C4H8O2
reactant | diisopropyl azodicarboxylate | 0.27 mmol, 53.7 μL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | methanol | CO | CH4O
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | Isopropyl 3-ethyl-6-{1-[4-(methylsulfonyl)phenyl]-1H-pyrazol-5-yl}-1H-indazole-1-carboxylate | 40 mg, 63% | C(C)C1=NN(C2=CC(=CC=C12)C1=CC=NN1C1=CC=C(C=C1)S(=O)(=O)C)C(=O)OC(C)C | C23H24N4O4S
